US03965257
4' -Fluoro-3-[ 4 -(α -hydroxy-α -phenylbenzyl)piperidino] propiophenone hydrochloride
A mixture of 30.4 g (0.1 mole) of α,α -diphenyl-4-piperidinemethanol hydrochloride, 9 g (0.3 mole) of paraformaldehyde and 13.8 g (0.1 mole) of 4' -fluoroacetophenone in 100 ml of isopropyl alcohol containing 2 drops of concentrated HCl was refluxed for 24 hours. The mixture was filtered and the filtrate concentrated to about 100 ml and cooled. The resulting precipitate was filtered off and recrystallized from ethanol and isopropyl alcohol to give the desired product, M.P. 250° C.

reactant | α,α -diphenyl-4-piperidinemethanol hydrochloride | 0.1 mole, 30.4 g | Cl.C1(=CC=CC=C1)C(O)(C1CCNCC1)C1=CC=CC=C1
reactant | paraformaldehyde | 0.3 mole, 9 g | C=O | CH2O
reactant | 4' -fluoroacetophenone | 0.1 mole, 13.8 g | FC1=CC=C(C=C1)C(C)=O | C8H7FO
reactant | HCl | Cl | ClH
catalyst | isopropyl alcohol | 100 ml | C(C)(C)O | C3H8O
product | 4' -Fluoro-3-[ 4 -(α -hydroxy-α -phenylbenzyl)piperidino] propiophenone hydrochloride | Cl.FC1=CC=C(C=C1)C(CCN1CCC(CC1)C(C1=CC=CC=C1)(C1=CC=CC=C1)O)=O | InChI=1S/C27H28FNO2.ClH/c28-25-13-11-21(12-14-25)26(30)17-20-29-18-15-24(16-19-29)27(31,22-7-3-1-4-8-22)23-9-5-2-6-10-23;/h1-14,24,31H,15-20H2;1H
